US04783453
A stirred, 0° C. solution of p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate (5.9 mg, 18 micromol) in dry dichloromethane (0.30 ml) was treated with 1-diethylaminopropyne (2.5 microliter, 2.0 mg, 18 micromol). After 1.25 hours the mixture was filtered through a 6 cm×4 mm column of florisil and the eluate was evaporated under vacuum. The residue was chromatographed on one 5 cm×20 cm 250 micron silica gel thin layer chromatography plate developed with 5:1 (v/v) dichloromethane-ethyl acetate, and the band centered at Rf 0.30 was eluted with ethyl acetate. The eluate was evaporated under vacuum to provide 1.2 mg (15%) p-nitrobenzyl 2-(5-diethylamino-4-methyl-1,2,3-triazol-1-yl)-carbapen-2-em-3-carboxylate; IR (CH2Cl2): 1785, 1730 cm-1 ; NMR (CDCl3): δ 0.92 t (J=7 Hz, 6H), 2.30 s (3H), 2.97 q (J=7 Hz, 4H), 3.18 dd (J1 =4 Hz, J2 =17 Hz, 1H), 3.24 dd (J1 =10 Hz, J2 =18 Hz, 1H), 3.40 dd (J1 =8 Hz, J2 =18 Hz, 1H), 3.65 dd (J1 =6 Hz, J2 =17 Hz, 1H), 4.25 m (1H), 5.22 d (J=14 Hz, 1H), 5.32 d (J=14 Hz, 1H), 7.45 d (J=9 Hz, 2H), 8.22 d (J=9 Hz); MS (m/e): 440, 414, 412, 398, 384, 369, 357, 355, 341, 333.

reactant | p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate | 18 micromol, 5.9 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
reactant | 1-diethylaminopropyne | 18 micromol, 2.5 microliter, 2.0 mg | C(C)N(C#CC)CC | C7H13N
solvent | dichloromethane | 0.30 ml | ClCCl | CH2Cl2
product | p-nitrobenzyl 2-(5-diethylamino-4-methyl-1,2,3-triazol-1-yl)-carbapen-2-em-3-carboxylate | 1.2 mg, 15% | C(C)N(C1=C(N=NN1C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O)C)CC | C21H24N6O5
